US05254689
To a stirring solution of 4-(imidazol-1-yl)phenol (20. g, 125 mmol) and NaOH (5.0 g, 125 mmol) in methanol (600 mL) was added 1-bromo-3-chloropropane (49 mL, 500 mmol). The reaction was stirred for 18 hours at 70° C. under nitrogen, concentrated, and partitioned between 1.0 N NaOH/CH2Cl2The organic phase was dried and concentrated to afford crude product which was purified by HPLC (5% CH3OH/CH2Cl2) to give 6.0 g (20%) of 1-[4-(3-chloropropoxy)phenyl]-1H-imidazole as a brown solid: mp 53°-55° C.; 1H NMR (CDCl3): δ 7.80 (brs, 1H), 7.30 (m, 3H), 7.20 (bs, 1H), 4.16 (t, J=6.0 Hz, 2H), 3.76 (t, J=6.0 Hz, 2H), 2.30 (m, 2H).

reactant | 4-(imidazol-1-yl)phenol | 125 mmol | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | NaOH | 125 mmol, 5.0 g | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 500 mmol, 49 mL | BrCCCCl | C3H6BrCl
solvent | methanol | 600 mL | CO | CH4O
product | 1-[4-(3-chloropropoxy)phenyl]-1H-imidazole | 6.0 g, 20% | ClCCCOC1=CC=C(C=C1)N1C=NC=C1 | C12H13ClN2O
